US04489078
N-[(4-CHLOROPHENYL)METHYL]ETHYLENEDIAMINE.
p-Chlorobenzyl chloride, 32 g. (0.2 mole), was added dropwise to 60 g. (1.0 mole) of ethylenediamine heated at 80°. The solution was stirred at 80° overnight and then the excess amine was distilled in vacuo. The residue was triturated with i-PrOH to yield 32 g. of crude product. This material was dissolved in water, basified with dilute NaOH and the solution extracted with CH2Cl2. The combined extracts were dried (K2CO3) and concentrated in vacuo to an oil. The latter was distilled and the material boiling at 93°-95°/0.06 mm Hg was collected to yield 14.5 g. of the desired product, the identity of which was confirmed by examination of the NMR spectrum.

reactant | p-Chlorobenzyl chloride | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | ethylenediamine | 1.0 mole | C(CN)N | C2H8N2
reactant | NaOH | [OH-].[Na+]
solvent | water | O | H2O
product | N-[(4-CHLOROPHENYL)METHYL]ETHYLENEDIAMINE | ClC1=CC=C(C=C1)CNCCN | C9H13ClN2
